US07560551B2
1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (0.270 g, 0.369 mmol), phenylboronic acid (0.900 g, 7.38 mmol) and 1,4-dichloro-5,6,7,8-tetrahydrophthalazine (2.25 g, 11.1 mmol) were combined in a 150 mL sealable vessel under argon. 15 mL dioxane and 2.0 M Sodium carbonate, aqueous (7.38 ml, 14.8 mmol) were added. The vessel was sealed and heated to 80° C. to give a homogenous brown reaction. After 30 min, the reaction was cooled to ambient temperature and was diluted with EtOAc, water, and brine. The layers were separated, and the organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give a red solid. This was taken up in dichloromethane and purified by silica gel chromatography (0-60% EtOAc in hexanes) to give 1-chloro-4-phenyl-5,6,7,8-tetrahydrophthalazine as an off-white solid. MS m/z=245 [M+H]+. Calc'd for C14H13ClN2: 244.7.

reactant | phenylboronic acid | 7.38 mmol, 0.900 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1,4-dichloro-5,6,7,8-tetrahydrophthalazine | 11.1 mmol, 2.25 g | ClC1=NN=C(C=2CCCCC12)Cl | C8H8Cl2N2
reactant | dioxane | 15 mL | O1CCOCC1 | C4H8O2
reactant | Sodium carbonate | 2.0 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 0.369 mmol, 0.270 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-chloro-4-phenyl-5,6,7,8-tetrahydrophthalazine | ClC1=NN=C(C=2CCCCC12)C1=CC=CC=C1 | C14H13ClN2
